US05710173
Reaction of 2-nitrothiophen-5-carboxaldehyde and benzylaminosulfonylacetonitrile as in Example 1 gave (E)-2-(benzylaminosulfonyl)-3-(2-nitrothien-5-yl)acrylonitrile

reactant | 2-nitrothiophen-5-carboxaldehyde | [N+](=O)([O-])C=1SC(=CC1)C=O | C5H3NO3S
reactant | benzylaminosulfonylacetonitrile | C(C1=CC=CC=C1)NS(=O)(=O)CC#N | C9H10N2O2S
product | (E)-2-(benzylaminosulfonyl)-3-(2-nitrothien-5-yl)acrylonitrile | C(C1=CC=CC=C1)NS(=O)(=O)\C(\C#N)=C\C1=CC=C(S1)[N+](=O)[O-] | C14H11N3O4S2
